US08461348B2
[3-(ethoxycarbonyl)-5-methyl-1H-pyrazol-1-yl]acetic acid
To a mixture of ethyl 2,4-dioxopentanoate (1.74 g, 11.0 mmol), ammonium acetate (1.16 g, 15.0 mmol) and ethanol (20 mL) was added benzyl hydrazinoacetate hydrochloride (2.17 g, 10.0 mmol), and the mixture was stirred at room temperature for 1 hr and at 80° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with water, extracted with ethyl acetate, washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give benzyl [3-(ethoxycarbonyl)-5-methyl-1H-pyrazol-1-yl]acetate (0.95 g, 31%) and benzyl [5-(ethoxycarbonyl)-3-methyl-1H-pyrazol-1-yl]acetate (1.56 g, 51%). To a solution of benzyl [3-(ethoxycarbonyl)-5-methyl-1H-pyrazol-1-yl]acetate (0.95 g, 3.14 mmol) in ethanol (10 mL) was added 5% palladium/carbon (0.30 g), and the mixture was stirred under a hydrogen stream for 21 hr. The insoluble material was filtered off, and the filtrate was concentrated. The residue was recrystallized from ethyl acetate-hexane to give the title compound (0.59 g, 88%).

reactant | benzyl [3-(ethoxycarbonyl)-5-methyl-1H-pyrazol-1-yl]acetate | 3.14 mmol, 0.95 g | C(C)OC(=O)C1=NN(C(=C1)C)CC(=O)OCC1=CC=CC=C1 | C16H18N2O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 0.30 g | [Pd] | Pd
product | [3-(ethoxycarbonyl)-5-methyl-1H-pyrazol-1-yl]acetic acid | 0.59 g, 88% | C(C)OC(=O)C1=NN(C(=C1)C)CC(=O)O | C9H12N2O4
